US06492416B1
To a stirred solution of 2-{4-(methylthio)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one (0.6 g) in 10 ml THF and 10 ml ethanol, was added 2.67 g of OXONE dissolved in 5 ml water. The mixture was stirred for 26 hours at room temperature. After volatile solvent was evaporated in vacuo, the aqueous solution was extracted with dichloromethane. The organic layer was concentrated under reduced pressure and the resulting crude product was purified by recrystallization from hexane/dichloromethane to give 0.55 g of 2-{4-(methylsulfonyl)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one. mp: 163-165° C. NMR: δ1.58-1.70 (m, 2H), 2.09-2.20 (m, 2H), 3.11 (s, 3H), 3.82-3.92 (m, 2H), 4.04-4.14 (m, 2H), 6.16 (s, 1H), 8.05 (d, J=8.7 Hz, 2H), 8.10 (d, J=8.7 Hz, 2H). IR (cm−1): 2862, 1694, 1314, 1152, 961.

reactant | 2-{4-(methylthio)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one | 0.6 g | CSC1=CC=C(C=C1)C=1OC2(C(C1)=O)CCOCC2 | C15H16O3S
reactant | OXONE | 2.67 g | OOS(=O)[O-].[K+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-{4-(methylsulfonyl)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one | 0.55 g | CS(=O)(=O)C1=CC=C(C=C1)C=1OC2(C(C1)=O)CCOCC2 | C15H16O5S
